US07252925B2
1-[2-(2-Methoxyethoxy)ethyl]-2-methyl-1H-benzimidazole was synthesized as in Synthesis Example 1 except that an equimolar amount of 2-methylbenzimidazole was used instead of benzimidazole and an equimolar amount of 2-chloroethyl 2-methoxyethyl ether was used instead of 2-chloroethyl methyl ether. Yield 78%.

reactant | 2-methylbenzimidazole | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 2-chloroethyl 2-methoxyethyl ether | COCCOCCCl | C5H11ClO2
product | 1-[2-(2-Methoxyethoxy)ethyl]-2-methyl-1H-benzimidazole | Yield 78% | COCCOCCN1C(=NC2=C1C=CC=C2)C | C13H18N2O2
